* Z:\home\martin\Escritorio\2024\githubTC2\TC2\Draft1.asc
R1 N001 Vi 0.01
R2 N005 N001 0.5412
XU1 N001 0 N005 opamp Aol=100K GBW=10Meg
R3 N009 N005 1
C1 N005 N001 1
XU2 N009 0 Vo opamp Aol=100K GBW=10Meg
C2 N003 N009 1
XU3 N004 0 N003 opamp Aol=100K GBW=10Meg
R4 N004 N003 10k
R5 Vo N004 10k
R6 Vo N001 1
V1 Vi 0 0 AC 100m
R7 N002 Vo 1
R8 N008 N002 1.3065
XU4 N002 0 N008 opamp Aol=100K GBW=10Meg
R9 N010 N008 1
C3 N008 N002 1
XU5 N010 0 Vo2 opamp Aol=100K GBW=10Meg
C4 N006 N010 1
XU6 N007 0 N006 opamp Aol=100K GBW=10Meg
R10 N007 N006 10k
R11 Vo2 N007 10k
R12 Vo2 N002 1
.inc opamp.sub
.ac dec 1000 0.0000001 100
.inc opamp.sub
.backanno
.end
