* C:\users\martin\Escritorio\2024\githubTC2\TC2\TS5_Desnormalizada.asc
R1 Vo Vo1 1
C1 Vo 0 86.1288µ
R2 N001 Vi 1.17563
R3 N002 N001 1.17563
C2 N002 0 92.51µ
C3 Vo1 N001 92.51µ
XU1 N002 Vo1 Vo1 opamp Aol=100K GBW=10Meg
V1 Vi 0 AC 1
.inc opamp.sub
.ac dec 1000 0.1 10k
.backanno
.end
