* C:\UTN\2024\TC2\Mi_Repo\TC2\TPLAB1\Filtro_Notch_UAF42.asc
RQ In3 0 9k
V1 N004 N005 SINE(0 100m 110h) AC 1
V2 N005 0 SINE(0 1 500h) AC 1
Rg In2 N004 50
XU5 TL In2 In3 N002 0 Vout TBANDPAS N001 V- V+ 0 NC_01 TH N003 UAF42
RF1 TH N001 3.183Meg
RF2 TBANDPAS N003 3.183Meg
R23 Vout N002 10k
V3 V+ 0 3V
V4 0 V- 3V
R21 TL N002 2k
R22 N002 TH 2k
R1 N002 0 250
.ac dec 10000 20 80
* Valores del integrado
.param C = 1n
.param R = 50k
.lib "C:\Users\marti\AppData\Local\LTspice\lib\sub\UAF42.lib"
.backanno
.end
