* C:\UTN\2024\TC2\Mi_Repo\TC2\TS13\Ej DESNORMALIZADO.asc
V1 N001 0 AC 1 0 Rser=50
L1 N002 N001 {L1}
C1 N002 0 {C1}
L2 N003 N002 {L2}
RL N003 0 {RL}
.net I(RL) V1
.param Ww=2*pi*F Wz=R0
.param RL = Wz
.param L1 = 1.225*Wz/Ww
.param C1 = (0.5527)/(Wz*Ww)
.param L2 = 0.1922*Wz/Ww
.ac dec 1000 {Fi} {Ff}
.param R0 = 50
.param F = 10**6
.param Fi = F/100
.param Ff = F*100
.backanno
.end
