* Z:\home\martin\Escritorio\2024\githubTC2\TC2\TS2\TS2_orden4.asc
R1 N001 Vi 0.1
R2 N007 N001 .5412
R3 N008 N007 1
C1 N007 N001 1
XU1 N001 0 N007 opamp Aol=100K GBW=10Meg
XU2 0 N008 Vo opamp Aol=100K GBW=10Meg
XU3 N004 0 N003 opamp Aol=100K GBW=10Meg
C1b N003 N008 1
R4 N004 N003 1
R4b Vo N004 1
R3b Vo N001 1
V1 Vi 0 0 AC 1
R7 N002 Vo 1
R8 N009 N002 1.3065
R9 N010 N009 1
C3 N009 N002 1
XU4 N002 0 N009 opamp Aol=100K GBW=10Meg
XU5 N010 0 Vo2 opamp Aol=100K GBW=10Meg
XU6 N006 0 N005 opamp Aol=100K GBW=10Meg
C4 N005 N010 1
R10 N006 N005 1
R11 Vo2 N006 1
R12 Vo2 N002 1
.ac dec 1000 0.01 0.4
.inc opamp.sub
.inc opamp.sub
.backanno
.end
