* Z:\home\martin\Escritorio\2024\githubTC2\TC2\TS4\Spice\TS4.asc
R5 N010 N009 1
XU1 N001 N010 V1 opamp Aol=100K GBW=10Meg
R4 V1 N001 1
R6 V2 N010 1
R1 N003 V1 1
XU2 N003 0 V2 opamp Aol=100K GBW=10Meg
C1 V2 N003 4.1911
XU3 N004 0 V3 opamp Aol=100K GBW=10Meg
R2 N004 V2 1
C2 V3 N004 .226646
V1 N009 0 0 AC 1
R3 V3 N001 1
R25 N011 V3 1
XU4 N002 N011 V21 opamp Aol=100K GBW=10Meg
R24 V21 N002 1
R26 V22 N011 1
R21 N005 V21 1
XU5 N005 0 V22 opamp Aol=100K GBW=10Meg
C21 V22 N005 1.600768369
XU6 N006 0 V23 opamp Aol=100K GBW=10Meg
R22 N006 V22 1
C22 V23 N006 1.263296259
R23 V23 N002 1
R31 N012 V23 1
C31 N012 0 2.59
XU7 N008 N012 N008 opamp Aol=100K GBW=10Meg
XU8 N007 0 Vo opamp Aol=100K GBW=10Meg
R41 N007 N008 0.5
R42 Vo N007 1
.inc opamp.sub
.ac dec 10000 0.001 1
.backanno
.end
