* Z:\home\martin\Escritorio\2024\githubTC2\TC2\TS3\Spice\TS3NORMALIZADO.asc
R1 N001 Vi 0.798
C1 N001 0 1
V1 Vi 0 AC 1
L1 Vo2 N002 637.34m
R2 Vo2 0 0.798
C2 Vo2 0 1
XU1 N002 N001 N002 opamp Aol=100K GBW=10Meg
.ac dec 1000 0.01 .4
.inc opamp.sub
.backanno
.end
