* Z:\home\martin\Escritorio\2024\githubTC2\TC2\TS3\Spice\TS3_DESNORMALIZADO.asc
R1 N001 Vi 846.79
C1 N001 0 100n
V1 Vi 0 AC 1
L1 Vo2 N002 71.75m
R2 Vo2 0 846.79
C2 Vo2 0 100n
XU1 N002 N001 N002 opamp Aol=100K GBW=10Meg
.ac dec 1000 100 5k
.inc opamp.sub
.backanno
.end
